Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I would like to get help."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is an ___ yo F ___ at ___ with a PPHx of 
depression who is presenting with worsening depressive symptoms 
and suicidal ideation in the setting of recent break-up and 
school/family stressors.

On interview, the patient states that she has struggled with 
depression since sophomore year of high school.  This year, she 
decided that she was tired of not getting help for it, and so 
started seeing a counselor at school and started Celexa.  The 
Celexa helped, and her depression improved, however in the past 
few weeks she has felt worse because of a combination of finals, 
family issues, and relationship issues.  Her ___ are 
divorced, and frequently fight a lot.  Her boyfriend of ___ 
years broke up with her about a week ago.  She says that for the 
last couple of days, everything just became overwhelming and she 
just "wanted it all to go away."  She had thoughts about being 
relived
if she died, but never intended to hurt herself and never had a 
plan. She also endorses difficulty sleeping, poor appetite, 
feelings of guilt, feelings of hopelessness, and fatigue. Denies 
changes in concentration. She is interested in getting more help 
with her depression, and is particular interested in building 
coping skills. 

She also endorses some anxiety, but states that it is always in 
the context of being depressed. She feels like she has had two 
panic attacks in her life.  The first happened when her ___ 
divorced. The second happened around ___ of this year. She 
went to a Halloween party and had more to drink that she usually 
does.  A boy at the party pressured her into kissing him.  He 
also tried to pressure her into taking off her clothes, although 
this did not happen because other people came into the room.  
Afterward this incident, she became very anxious about running 
into him at school. 

 
Past Medical History:
Mild intermittent asthma
 
Social History:
-Born/Raised: Born and raised mainly in ___
  -Family/Support: Raised by mother and father, has two younger 
sisters (ages ___, ___). ___ divorced when pt was in ___ 
grade. Both ___ remarried. Patient lived with mother in 
___ for ___ grade, then moved to ___ to live with 
father for ___ grade. Reports her ___ are still 
fighting and not on good terms and she often feels in the 
middle. Reports her
relationship with her father is strained because she lives with 
him but is closer to her mother. 
  -Relationship status/Children: Recent breakup with boyfriend 
of ___ years who is a year younger than her, senior in ___ in 
___
  -Housing: Lives in ___
  -Education: Freshman at ___ studying ___ education. 
Reports getting As for the most part 
  -Employment/Income: Work/study program at school, works in 
___ dept 
  -Spiritual: Denies
  -Trauma history: Reports sexually/emotionally abusive 
relationship in ___ grade 
 
Family History:
-History of psychiatric disorders: dad with depression, mother 
with anxiety, maternal grandmother with depression
  -History of suicide attempts/self-injurious behavior: reports 
maternal grandmother died of overdose (does not know details or 
if it was intentional)
  -History of substance use: denies
 
Physical Exam:
General: young female in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. EOMI. 
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 
 
Pertinent Results:
___ 05:25PM BLOOD WBC-3.8* RBC-3.99 Hgb-12.8 Hct-35.9 
MCV-90 MCH-32.1* MCHC-35.7 RDW-11.8 RDWSD-38.1 Plt ___
___ 05:25PM BLOOD Glucose-96 UreaN-14 Creat-0.8 Na-139 
K-4.5 Cl-103 HCO3-24 AnGap-17
___ 05:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major depressive disorder. 
- Patient presented with worsening depressive symptoms and 
suicidal ideation without a plan in the setting of recent 
break-up and school/family stressors with associated symptoms of 
decreased sleep, poor appetite, fatigue, feelings of guilt, and 
feelings of hopelessness. 
- The patient's citalopram was increased from 10 mg daily to 20 
mg daily. 
- Patient routinely attended groups, actively participated, and 
was noted to appropriately identify strategies to use to cope.  
- After her initial presentation, patient consistently denies SI 
or thoughts about self injurious behavior.  She showed good 
insight into her depression, and reports improvement in her 
mood, energy, and appetite.   
- Patient's outpatient therapist came to visit the patient.  The 
patient reported this visit to be very beneficial and is 
motivated to follow up with her as an outpatient. 

4. MEDICAL
#) Asthma: Patient reported a history of asthma, so albuterol 
inhaler q4h PRN was ordered on admission. Patient did not report 
any difficulty breathing during hospitalization. 

#) Lightheadedness: Patient reported one episode of 
lightheadedness, which resolved with increased PO intake. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  Patient was noted to have good 
focus and concentration during groups, and interacted socially 
and appropriately with her peers in the milieu.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The team spoke to the patient's father and outpatient therapist 
with the patient's permission. Her father was very supportive of 
his daughter, and was glad that she was getting additional help. 
 The patient's therapist, ___, visited the patient on Deac4 
the day before discharge.  She was updated about the patient's 
medication changes. The patient described the visit as very 
beneficial.  The patient's therapist was in agreement with the 
patient being discharged with follow up with her and a primary 
care provider at ___. 

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based on recent SI and urges 
to self harm.  Their static factors noted at that time include 
Caucasian race and age. Patient also reported stress with school 
and a recent break-up as triggers for her worsening depression. 
These were addressed via teaching various coping mechanisms in 
groups.  The patient is being discharged with many protective 
risk factors, such as a help-seeking nature, future-oriented 
viewpoint, good coping skills, positive therapeutic relationship 
with outpatient providers, lack of suicidal ideation, and strong 
social supports. 

Our Prognosis of this patient is good.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB, wheezing 
3. Sprintec (28) (norgestimate-ethinyl estradiol) 0.25-35 mg-mcg 
oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder 

 
Discharge Condition:
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: intact to recent and past history
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, pleasant, appropriate eye contact,
no psychomotor agitation or retardation
Mood and Affect: 'good' / euthymic, full range
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: Denies SI, denies HI, denies AH/VH, no evidence
of delusions or paranoia
Judgment and Insight: good/good

Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depression.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient therapist or other providers if 
you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___